US04371736
5-Nitro-2-[2-(5-chloropyrimidin-2-ylthio)phenoxy]-pyridine
At 0°, 4.0 grams (0.027 moles) of 2,5-dichloropyrimidine is added to a mixture of 3.0 grams (0.0023 mole) 2-mercaptophenol and 7.0 grams of potassium carbonate stirring in 50 ml of dimethylformamide. After stirring overnight at room temperature, 4.0 grams of 2-chloro-5-nitropyridine is added and the mixture is heated at 80° for 4 hours. The reaction mixture is then poured into excess H2O and extracted with ethyl ether (200 ml). Washing with H2O, saturated NaHCO3, brine, drying (MgSO4), and evaporation yields the crude product.

reactant | 2,5-dichloropyrimidine | 0.027 moles, 4.0 grams | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | 2-mercaptophenol | 0.0023 mole, 3.0 grams | SC1=C(C=CC=C1)O | C6H6OS
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 4.0 grams | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 5-Nitro-2-[2-(5-chloropyrimidin-2-ylthio)phenoxy]-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC1=C(C=CC=C1)SC1=NC=C(C=N1)Cl | C15H9ClN4O3S
